US05646173
0.81 ml of methanesulfonyl chloride was added dropwise while stirring to a solution, cooled to 0°, of 1.35 g of (RS)-1-(7-methoxy-2-methyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol and 2.92 ml of triethylamine in 60 ml of dichloromethane and the mixture was stirred at this temperature for an additional 1.5 hours. The reaction mixture was subsequently diluted with 120 ml of dichloromethane, washed twice with 70 ml of saturated sodium hydrogen carbonate solution each time and the combined aqueous phases were extracted once with 70 ml of dichloromethane. The combined organic phases were washed with 90 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. The brown oil obtained was dissolved in 40 ml of anhydrous dimethylformamide, treated with 0.68 g of sodium azide and the reaction mixture was heated to 80° for 23 hours while stirring. After cooling, the solution was poured into 70 ml of water and extracted twice with 100 ml of ethyl acetate each time. The combined organic phases were washed once with 70 ml of water and once with 70 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The brown oil obtained was purified by column chromatography on silica gel (toluene). 0.93 g (63%) of (RS)-1-(2-azido-propyl)-7-methoxy-2-methyl-1,4-dihydro-indeno[1,2-b]pyrrole was obtained as a light yellow oil.

reactant | methanesulfonyl chloride | 0.81 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (RS)-1-(7-methoxy-2-methyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 1.35 g | COC1=CC=C2CC3=C(N(C(=C3)C)CC(C)O)C2=C1 | C16H19NO2
reactant | triethylamine | 2.92 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 0.68 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 70 ml | O | H2O
product | (RS)-1-(2-azido-propyl)-7-methoxy-2-methyl-1,4-dihydro-indeno[1,2-b]pyrrole | 0.93 g, 63% | N(=[N+]=[N-])C(CN1C2=C(C=C1C)CC1=CC=C(C=C12)OC)C | C16H18N4O
